US05654316
2-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1,2,3,4-tetrahydroisoquinoline
A solution of oxalyl chloride (0.460 mL) in CH2Cl2 (20 mL) was cooled to -78° C. whereupon DMSO (0.749 mL) was added dropwise over 15 mins. This mixture was stirred for 15 minutes. Whereupon a CH2Cl2 (10 mL) solution of 2-[3-(3,4-dichlorophenyl)-5-hydroxy-1-oxopentyl]-1,2,3,4-tetrahydroisoquinoline (1.0 g) was added over 20 minutes. The mixture was stirred for 30 minutes and then treated with Et3N (3 mL) and stirred for an additional 30 minutes at -78° C., followed by 1.5 hours at room temperature. The reaction mixture was quenched with water and diluted with CH2Cl2 (100 mL). The organic fraction was separated, washed sequentially with 1N HCl (1×50 mL), sat. NaHCO3 (1×50 mL) and brine (1×50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to yield an oil. Silica gel chromatography eluting with 5-15% EtOAc/Hex gave the title compound (800 mg).

reactant | oxalyl chloride | 0.460 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.749 mL | CS(=O)C | C2H6OS
reactant | 2-[3-(3,4-dichlorophenyl)-5-hydroxy-1-oxopentyl]-1,2,3,4-tetrahydroisoquinoline | 1.0 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N1CC2=CC=CC=C2CC1)CCO | C20H21Cl2NO2
reactant | Et3N | 3 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1,2,3,4-tetrahydroisoquinoline | 800 mg | ClC=1C=C(C=CC1Cl)C(CC(=O)N1CC2=CC=CC=C2CC1)CC=O | C20H19Cl2NO2
